### PR TITLE
[Merged by Bors] - feat(Analysis/Convex): Radon's convexity theorem

### PR DESCRIPTION
**Pull request by vasnesterov**
Add Radon's theorem on convex sets

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Radon.lean [hunk 1]
```diff
@@ -0,0 +1,190 @@
...
+
+universe u
+
+variable {𝕜 : Type*} {E : Type u} [LinearOrderedField 𝕜] [AddCommGroup E] [Module 𝕜 E]
+
+/-- If `s` is a set of affine dependent vectors, it has subset `I` with the property that
+convex hulls of `I` and `s \ I` intersect. -/
+theorem Radon_partition (s : Set E)
+(h : ¬AffineIndependent 𝕜 ((↑) : s → E)) : ∃ (I : Set E), (I ⊆ s) ∧
+(Set.Nonempty ((convexHull 𝕜 I) ∩ (convexHull 𝕜 (s \ I)))) := by
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:37]:
```suggestion
    (h : ¬AffineIndependent 𝕜 ((↑) : s → E)) : ∃ (I : Set E), (I ⊆ s) ∧
    (Set.Nonempty ((convexHull 𝕜 I) ∩ (convexHull 𝕜 (s \ I)))) := by
```
I don't think we have a documentation for this yet, but the convention in Lean4 is that everything before the `:=` should be indented twice.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 2]
```diff
@@ -0,0 +1,190 @@
...
+open Set Finset
+open BigOperators
+
+universe u
+
+variable {𝕜 : Type*} {E : Type u} [LinearOrderedField 𝕜] [AddCommGroup E] [Module 𝕜 E]
+
+/-- If `s` is a set of affine dependent vectors, it has subset `I` with the property that
+convex hulls of `I` and `s \ I` intersect. -/
+theorem Radon_partition (s : Set E)
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:35]:
```suggestion
theorem radon_partition (s : Set E)
```

File: Mathlib/Analysis/Convex/Radon.lean (hunk 1 above)
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:37]: I would suggest formulating the theorem for a *family* of points instead of a set of points: it should be both easier to use and easier to prove. It would look like this:
```lean
theorem radon_partition {ι : Type*} {f : ι → E}
    (h : ¬AffineIndependent 𝕜 f) : ∃ (I : Set ι),
    (Set.Nonempty ((convexHull 𝕜 (f '' I)) ∩ (convexHull 𝕜 (f '' Iᶜ)))) := by
  sorry
```

**Review by ADedecker — COMMENTED** [review]
Thanks and congrats for your first PR! I left two small style comments as well as an alternative formulation which I believe could simplify the proof, so let's start with that and then I'll have a deeper look at the proof.

File: Mathlib/Analysis/Convex/Radon.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Analysis/Convex/Radon.lean:37]: Actually I thought a bit more about it and it's not that clear that it would be easier to use. I would still say to state that version and deduce the current one from it, but I don't have a strong opinion so do as you wish.

Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean]: Thanks! I did as you suggest, and the proof really got a little easier.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 3]
```diff
@@ -0,0 +1,232 @@
...
+universe u
+
+variable {𝕜 : Type*} {E : Type u} [LinearOrderedField 𝕜] [AddCommGroup E] [Module 𝕜 E]
+
+/-- Any family `f` of affine dependent vectors contains a set `I` with the property that
+convex hulls of `I` and `Iᶜ` intersect. -/
+theorem radon_partition {ι : Type*} {f : ι → E}
+    (h : ¬AffineIndependent 𝕜 f) : ∃ (I : Set ι),
+    (Set.Nonempty ((convexHull 𝕜 (f '' I)) ∩ (convexHull 𝕜 (f '' Iᶜ)))) := by
+  unfold AffineIndependent at h; push_neg at h
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:38]: Since you're working in a vector space, you can use [affineIndependent_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/AffineSpace/Independent.html#affineIndependent_iff), which is more convenient that these "weighted VSub".
```suggestion
  rw [affineIndependent_iff] at h; push_neg at h
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 4]
```diff
@@ -0,0 +1,232 @@
...
+  rcases h with ⟨s1, w, h_wsum, h_vsum, nonzero_w_index, h1, h2⟩
+  let I : Finset ι := s1.filter (fun i => w i ≥ 0)
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:40]:
```suggestion
  let I : Finset ι := s1.filter (fun i => 0 ≤ w i)
```
This may sound very picky, but there is a good reason: by convention, most lemmas in the library use `≤` instead of `≥`. The choice is a bit arbitrary, but it's important that we have a "normal form", otherwise we would spend a lot of time reversing the inequality back-and-forth depending on the lemmas we use. So it's best to stick to it.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 5]
```diff
@@ -0,0 +1,232 @@
...
+  let J : Finset ι := s1.filter (fun i => w i < 0)
+  use (I : Set ι)
+
+  let weights_sum_I := ∑ i in I, w i
+  let weights_sum_J := ∑ i in J, w i
+  have h3 : weights_sum_I + weights_sum_J = 0 := by
+    rw [←h_wsum]; simp
+    have h3_aux := Finset.sum_filter_add_sum_filter_not s1 (fun i => 0 ≤ w i) w
+    simp at h3_aux; exact h3_aux
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:49]:
```suggestion
    simpa only [h_wsum, not_le] using sum_filter_add_sum_filter_not s1 (fun i => 0 ≤ w i) w
```
Nothing fundamental here, but if you don't know about `simpa` you should learn about it, it's a great way to do "`exact` up to some rewriting/simplification"!

File: Mathlib/Analysis/Convex/Radon.lean [hunk 6]
```diff
@@ -0,0 +1,232 @@
...
+      have h4_aux : weights_sum_I ≥ w nonzero_w_index := by
+        apply Finset.single_le_sum
+        intros i hi
+        rw [Finset.mem_filter] at hi; exact hi.right
+        simp; constructor; exact h1; exact LT.lt.le h_pos
+      linarith
+    constructor
+    exact h_I_pos
+    linarith
+  rcases h4 with ⟨h_I_pos, h_J_neg⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:76]: A few things here:
- as above, prefer `0 < _` to `_ > 0`
- reasoning by cases is a perfectly fine strategy, but here you can take a shortcut: the lemma [Finset.exists_pos_of_sum_zero_of_exists_nonzero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Order.html#Finset.exists_pos_of_sum_zero_of_exists_nonzero) tells you that there exists at least a positive term (basically by doing the case disjunction for you), so you get `h_I_neg` directly
- proving that a sum of nonnegative elements is positive by exhibiting a positive term is so common that we have a lemma for it, [Finset.sum_pos'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Order.html#Finset.sum_pos')
- with my other suggestions below, you actually only need `h_I_pos`.
```suggestion
  have h_I_pos : 0 < weights_sum_I := by
    rcases exists_pos_of_sum_zero_of_exists_nonzero _ h_wsum ⟨nonzero_w_index, h1, h2⟩
      with ⟨pos_w_index, h1', h2'⟩
    exact sum_pos'
      (by simp only [mem_filter, and_imp, imp_self, implies_true])
      ⟨pos_w_index, by simp only [mem_filter, h1', h2'.le, and_self, h2']⟩
```
Here's what the proof of `h_J_neg` would look like from there:
```lean
  have h_J_neg : weights_sum_J < 0 := by
    linarith
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 7]
```diff
@@ -0,0 +1,232 @@
...
+
+  let w' : ι → 𝕜 := fun i => if w i ≥ 0
+    then (w i) / weights_sum_I
+    else -(w i) / weights_sum_I
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:80]:
```suggestion
  let w' : ι → 𝕜 := fun i => |w i| / weights_sum_I
```
This is easier to work with thanks to the existing API.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 8]
```diff
@@ -0,0 +1,232 @@
...
+      rcases hi with ⟨_, h_neg⟩
+      simp
+      split_ifs
+      exfalso; linarith
+      simp_rw [h5_aux1, div_neg]
+      ring
+    rw [h5_aux2]; simp
+    rw [←Finset.sum_div]
+    apply div_self
+    exact ne_of_lt h_J_neg
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:116]:
```suggestion
    simp_rw [← sum_div, div_eq_one_iff_eq h_I_pos.ne.symm, eq_neg_of_add_eq_zero_left h3,
      ← sum_neg_distrib]
    refine sum_congr rfl ?_
    intro i hi
    simp only [abs_eq_neg_self, (mem_filter.mp hi).2.le]
```
Similar to above.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 9]
```diff
@@ -0,0 +1,232 @@
...
+
+  have h6 : ∀ v, w' v ≥ 0 := by
+    intro; simp; split_ifs
+    repeat {apply div_nonneg; linarith; linarith}
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:120]:
```suggestion
  have h6 : ∀ v, 0 ≤ w' v := by
    intro; exact div_nonneg (abs_nonneg _) h_I_pos.le
```
Reversing the inequalities as usual, and here the proof becomes simpler thanks to the new definition of `w'`

File: Mathlib/Analysis/Convex/Radon.lean [hunk 10]
```diff
@@ -0,0 +1,232 @@
...
+
+  let p' : E := (Finset.sum J fun i => (w' i) • (f i))
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:122]: Could you move this closer to `p`?

File: Mathlib/Analysis/Convex/Radon.lean [hunk 11]
```diff
@@ -0,0 +1,232 @@
...
+      simp
+      ring_nf; split_ifs
+      exfalso; linarith
+      rw [mul_comm, ←neg_smul, ←neg_mul, mul_smul]
+
+    rw [h7_aux2, h7_aux3]
+    simp
+    have h7_aux4 := Finset.sum_filter_add_sum_filter_not s1 (fun i => 0 ≤ w i) g
+    simp at h7_aux4; rw [h7_aux4]
+    rw [←Finset.smul_sum, h_vsum, smul_zero]
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:157]: - As mentioned above, you can completely avoid `VSub` here.
- Again, no need for an auxiliary function here
- The tactic `congr : 1` in my code generates two goals. The `<;>` combinator after it tells it that the next tactic should be run in both cases.
```suggestion
    apply eq_of_sub_eq_zero
    simp_rw [div_eq_inv_mul, mul_smul, ← smul_sum, ← smul_sub, sub_eq_add_neg, ← sum_neg_distrib]
    apply smul_eq_zero_of_right
    rw [← h_vsum, ← Finset.sum_filter_add_sum_filter_not s1 (fun i => 0 ≤ w i) (fun i ↦ w i • f i)]
    congr 1 <;>
    refine sum_congr (by simp only [not_le]) fun i hi ↦ ?_
    · rw [mem_filter] at hi
      rw [abs_eq_self.mpr hi.2]
    · rw [mem_filter, not_le] at hi
      rw [abs_eq_neg_self.mpr hi.2.le, neg_smul, neg_neg]
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 12]
```diff
@@ -0,0 +1,232 @@
...
+  intros i hi
+  have h9 : f i ∈ (f '' Iᶜ) := by
+    apply Set.mem_image_of_mem
+    apply Set.mem_compl
+    intro h9_neg
+    have := (Iff.mp Finset.mem_filter hi).right
+    have := (Iff.mp Finset.mem_filter h9_neg).right
+    linarith
+  apply Set.mem_of_mem_of_subset h9
+  apply subset_convexHull
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:186]: Same comments as above. Note that in the second `apply`, the last `_` is the only one Lean can't guess, so it becomes the new goal.
```suggestion
  · rw [h7]
    apply (convex_convexHull 𝕜 _).sum_mem (fun i _ ↦ h6 i) h5_J
    intro i hi
    apply subset_convexHull _ _ (Set.mem_image_of_mem _ _)
    intro h9_neg
    exact not_lt_of_le (mem_filter.mp h9_neg).2 (mem_filter.mp hi).2
```

**Review by ADedecker — COMMENTED** [review]
I had a look at the main proof. Overall it's well structured and will definitely be a welcome addition to mathlib after some refinement!
I made quite extensive suggestions and tried to explain what I did, the hope being that you can pick up some of our usual tricks. So please ask if you have any question about what I wrote!

File: Mathlib/Analysis/Convex/Radon.lean (hunk 6 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean:76]: It's very cool! Can you teach me how you find exactly which lemmas to use in `simp only`?

Comment (ADedecker) [reply Mathlib/Analysis/Convex/Radon.lean:76]: `simp? [...]` tells you which lemmas are used, both from the set of simp lemmas and the manually provided ones. To be fair, in these case you could keep the condensed form (`by simp` on line 55, `by simp [h1', h2'.le, h2']` on line 56). The rule is that all `simp` calls that do *not* close the goal should be replaced by `simp only` to be more predictable.

**Comment by vasnesterov** [comment]
Thank you very much for your review and advice, I've learned a lot of things from this! I did everything you suggested and make a few more small simplifications in both `radon_partition` and `radon_set_partition`.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 13]
```diff
@@ -0,0 +1,130 @@
...
+/-- If `s` is a set of affine dependent vectors, it has subset `I` with the property that
+convex hulls of `I` and `s \ I` intersect. -/
+theorem radon_set_partition (s : Set E)
+    (h : ¬AffineIndependent 𝕜 ((↑) : s → E)) : ∃ (I : Set E), (I ⊆ s) ∧
+    (Set.Nonempty ((convexHull 𝕜 I) ∩ (convexHull 𝕜 (s \ I)))) := by
+  obtain ⟨I, h1⟩ := radon_partition h
+  use I; constructor
+  exact Set.coe_subset
+
+  have h2 : Subtype.val '' I = Lean.Internal.coeM I := by
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/Radon.lean:107]: I was very surprised why you'd have to use `Lean.Internal.coeM` here, but I see where it comes from. I think it shouldn't appear, and I've just asked about it on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Lean.2EInternal.2ECoeM/near/388318831).
In your case it's easy enough to just use `Subtype.val '' I` anyways, the following proof works:
```lean
  obtain ⟨I, hI⟩ := radon_partition h
  use (↑) '' I
  constructor
  · exact Subtype.coe_image_subset _ _
  rwa [compl_eq_univ_diff, image_diff  Subtype.val_injective, image_univ, Subtype.range_coe] at hI
```

**Review by ADedecker — COMMENTED** [review]
I'm very sorry for leaving this aside for so long. With the end of the summer vacations more people should be available to review your PR, but I will un-assign myself from this since I wont have a lot of time in the next few weeks. I'll try to have a final look tomorrow, otherwise I'll ask another maintainer to finish the review. Sorry again!

File: Mathlib/Analysis/Convex/Radon.lean (hunk 13 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean]: It is much simpler, thank you!

File: Mathlib/Analysis/Convex/Radon.lean [hunk 14]
```diff
@@ -0,0 +1,104 @@
...
+
+  have h_I_pos : 0 < weights_sum_I := by
+    rcases exists_pos_of_sum_zero_of_exists_nonzero _ h_wsum ⟨nonzero_w_index, h1, h2⟩
+      with ⟨pos_w_index, h1', h2'⟩
+    exact sum_pos'
+      (by simp only [mem_filter, and_imp, imp_self, implies_true])
+      ⟨pos_w_index, by simp only [mem_filter, h1', h2'.le], h2'⟩
+
+  let w' : ι → 𝕜 := fun i ↦ |w i| / weights_sum_I
+  let p : E := ∑ i in I, (w' i) • (f i) -- point of intersection
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:56]: You could define this using `Finset.centerMass` which hopefully make everything easier.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 15]
```diff
@@ -0,0 +1,104 @@
...
+/-- Any family `f` of affine dependent vectors contains a set `I` with the property that
+convex hulls of `I` and `Iᶜ` intersect. -/
+theorem radon_partition {ι : Type*} {f : ι → E}
+    (h : ¬AffineIndependent 𝕜 f) : ∃ (I : Set ι),
+    (Set.Nonempty ((convexHull 𝕜 (f '' I)) ∩ (convexHull 𝕜 (f '' Iᶜ)))) := by
+  rw [affineIndependent_iff] at h; push_neg at h
+  rcases h with ⟨s1, w, h_wsum, h_vsum, nonzero_w_index, h1, h2⟩
+  let I : Finset ι := s1.filter (fun i ↦ 0 ≤ w i)
+  let J : Finset ι := s1.filter (fun i ↦ w i < 0)
+  use (I : Set ι)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:41]: Do you really need the type annotation here?
```suggestion
  use I
```

**Review by YaelDillies — COMMENTED** [review]
Hey! I'm one of the few convexity reviewers. I am taking over reviewing here.

Your PR is in a good place. I'm just hoping we can cut down the proof a bit by extracting lemmas. Here's a first idea: If `s`, `t` are disjoint and the sums of `w` and `w smul f` over `s union t` are zero, then `centerMass s w f = centerMass t w f`. You might suffer a bit because the `centerMass` API expects positive scalars and you're giving it negative ones. Feel free to write versions of the `centerMass` API lemmas that assume negative scalars if that helps you.

Let me also mention that you could (in later PRs) prove Helly's theorem and simplify my proof of Stone's separation theorem from this.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 16]
```diff
@@ -22,14 +23,24 @@ convex hull, radon
...
-
 open Set Finset
 open BigOperators
 
 universe u
 
 variable {𝕜 : Type*} {E : Type u} [LinearOrderedField 𝕜] [AddCommGroup E] [Module 𝕜 E]
 
+lemma radon_partition_aux {ι : Type*} {z : ι → E} (w : ι → 𝕜) (I J : Finset ι) (h_disj : Disjoint I J)
+    (h_wsum_zero : ∑ i in I, w i + ∑ j in J, w j = 0) (h_wsum_I_pos : ∑ i in I, w i ≠ 0)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:34]: You should not need this, as in that case both `∑ i in I, w i` and `∑ i in J, w i` are zero and `centerMass I w z = centerMass J w z = 0` by the junk value of division by zero (`a / 0 = 0`).
```suggestion
    (h_wsum_zero : ∑ i in I, w i + ∑ j in J, w j = 0)
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 17]
```diff
@@ -22,14 +23,24 @@ convex hull, radon
...
+    (h_vsum : ∑ i in I, w i • z i + ∑ j in J, w j • z j = 0) :
+    (centerMass I w z = centerMass J w z) := by
+  ---have h_wsum_J_pos : ∑ i in I, w i > 0
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:37]:
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
Thanks! This is now nice and short.

I've pushed one last cleanup. If you're happy with it, feel free to merge!

maintainer merge

File: Mathlib/Analysis/Convex/Radon.lean [hunk 18]
```diff
@@ -0,0 +1,51 @@
...
+
+convex hull, radon, affine independence
+-/
+
+open Finset Set
+open BigOperators
+
+variable {ι 𝕜 E : Type*} [LinearOrderedField 𝕜] [AddCommGroup E] [Module 𝕜 E] {f : ι → E}
+
+/-- **Radon theorem on convex sets**: Any family `f` of affine dependent vectors contains a set `I`
```
Comment (jcommelin) [inline Mathlib/Analysis/Convex/Radon.lean:25]:
```suggestion
/-- **Radon's theorem on convex sets**: Any family `f` of affine dependent vectors contains a set `I`
```

**Review by jcommelin — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Convex/Radon.lean [hunk 19]
```diff
@@ -0,0 +1,51 @@
...
+with the property that convex hulls of `I` and `Iᶜ` intersect. -/
+theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
+    ∃ I, (convexHull 𝕜 (f '' I) ∩ convexHull 𝕜 (f '' Iᶜ)).Nonempty := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Radon.lean:28]: @YaelDillies, do you think using `Disjoint` here would be better or worse?

**Review by eric-wieser — APPROVED** [review]
Looks great, thanks!

File: Mathlib/Analysis/Convex/Radon.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Radon.lean:28]: Probably worse. That's neither how we prove nor use it.

**Comment by vasnesterov** [comment]
Thanks everyone! I am really happy about my first commit!

bors r+
